### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Integral): second mean value theorem for integration

### PR DESCRIPTION
**Pull request by roos-j**
Add second mean value theorem for integration, including an inequality variant for Banach-space valued functions.

---
This should be of general enough interest to need no justification, but as one specific application I need this as a prerequisite for appropriately generalizing the first-order case in https://github.com/leanprover-community/mathlib4/pull/39406

Some explanatory notes about the choices made. These may not belong into the documentation but we can add any subset of them if desired:

- Unlike the first mean value theorem, this one is specific to `intervalIntegral` and does not have the same natural generalization to integrals on connected sets.
- There are various formulations in the literature. In particular, there is a version featuring a one-sided limit of `f` at the endpoint on the right-hand side instead, and there is also a version without the non-negativity requirement which instead has two terms on the right-hand side. Each variant has their slight pros and cons. The present formulation is one of these and was chosen simply because it is the one most convenient for my purpose. Others can be added in the future if people need/want them.
- As is well-known, for vector-valued functions the identity generally fails, but one can show an inequality. I only need this for the complex-valued case, but I generalized it to functions taking values in a real Banach space. The argument uses the Hahn-Banach theorem and must be well-known, but I don't have a reference for it. There is of course also a version for the first mean value theorem, which is not part of this PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean [hunk 1]
```diff
@@ -81,3 +105,127 @@ theorem exists_eq_const_mul_intervalIntegral_of_nonneg
...
+    (hg : IntervalIntegrable g volume a b) : ∃ ξ ∈ Icc a b,
+    ∫ x in a..b, f x * g x = f b * ∫ x in ξ..b, g x := by
+  obtain ⟨ξ, hξ_mem, hξ⟩ := exists_eq_const_mul_intervalIntegral_of_nonneg_of_antitoneOn
+    (f := fun x ↦ f (-x)) (by simpa) (by simpa)
+    (by intro x hx y hy hxy; apply hf_mon <;> grind)
+    <| (IntervalIntegrable.iff_comp_neg).mp hg.symm
+  refine ⟨-ξ, by grind, ?_⟩
+  simpa using (intervalIntegral.integral_comp_neg (fun x ↦ f (-x) * g (-x))).trans hξ
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [CompleteSpace E]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean]: It's not really important but you can drop the completeness assumption on E, as otherwise all integrals are zero and then the statement is trivial.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean [hunk 2]
```diff
@@ -81,3 +105,127 @@ theorem exists_eq_const_mul_intervalIntegral_of_nonneg
...
+  have hf_nonneg x (hx : x ∈ Icc a b) : 0 ≤ f x := hf.trans (hf_mon.mapsTo_Icc hx).1
+  let H := fun r ↦ ∫ x in a..b, ({x | r ≤ f x}.indicator g) x
+  have h_int : Integrable ({p : ℝ × ℝ | p.2 ≤ f p.1}.indicator fun p ↦ g p.1)
+      ((volume.restrict (uIoc a b)).prod (volume.restrict (uIoc 0 (f a)))) := by
+    simpa only [Function.comp_apply, mul_one] using
+      (hg.def'.mul_prod (intervalIntegrable_const (c := 1)).def').indicator₀
+        (nullMeasurableSet_le measurable_snd.aemeasurable
+          (aemeasurable_restrict_of_antitoneOn measurableSet_uIoc (hf_mon.mono hsub)).comp_fst)
+  have hfub : ∫ x in a..b, f x * g x = ∫ r in 0..f a, H r := by
+    rw [intervalIntegral.integral_congr_ae_restrict <|
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean]: The `rw` here is very hard to parse because you never write what you are proving (you rely on the conclusion of the `simpa`). Could you try to make it more readable?

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean [hunk 3]
```diff
@@ -81,3 +105,127 @@ theorem exists_eq_const_mul_intervalIntegral_of_nonneg
...
+  -- The first step is to write `f x` as layercake integral and use Fubini.
+  have hsub : Ι a b ⊆ Icc a b := uIcc_of_le hab ▸ uIoc_subset_uIcc
+  have hf_nonneg x (hx : x ∈ Icc a b) : 0 ≤ f x := hf.trans (hf_mon.mapsTo_Icc hx).1
+  let H := fun r ↦ ∫ x in a..b, ({x | r ≤ f x}.indicator g) x
+  have h_int : Integrable ({p : ℝ × ℝ | p.2 ≤ f p.1}.indicator fun p ↦ g p.1)
+      ((volume.restrict (uIoc a b)).prod (volume.restrict (uIoc 0 (f a)))) := by
+    simpa only [Function.comp_apply, mul_one] using
+      (hg.def'.mul_prod (intervalIntegrable_const (c := 1)).def').indicator₀
+        (nullMeasurableSet_le measurable_snd.aemeasurable
+          (aemeasurable_restrict_of_antitoneOn measurableSet_uIoc (hf_mon.mono hsub)).comp_fst)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean]: the conclusion of the simpa is pretty hard to read. Also, do you really need to spell out the `h_int`? You need it for the `rwa` below. You could just do a normal `rw`, and then set on to prove the integrability condition -- trying to make it more readable if you can.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean [hunk 4]
```diff
@@ -81,3 +105,127 @@ theorem exists_eq_const_mul_intervalIntegral_of_nonneg
...
+  calc
+    ‖∫ x in a..b, f x • g x‖ = L (∫ x in a..b, f x • g x) := hLI.symm
+    _ = ∫ x in a..b, f x * L (g x) := by rw [← L.intervalIntegral_comp_comm hfg_interval]; simp
+    _ = f a * ∫ x in a..ξ, L (g x) := hξ_eq
+    _ = f a * L (∫ x in a..ξ, g x) := by rw [L.intervalIntegral_comp_comm hg_aξ]
+    _ ≤ f a * ‖∫ x in a..ξ, g x‖ := mul_le_mul_of_nonneg_left
+      ((le_abs_self _).trans <| by simpa using
+        (L.le_of_opNorm_le hL_norm (∫ x in a..ξ, g x))) hfa
+
+/-- Monotone variant of `exists_le_const_mul_norm_intervalIntegral_of_nonneg_of_antitoneOn` -/
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean]: Docstrings are typically read by consumers of the theorems, in tooltips, so the main thing to do is give information on what the theorem says. Comparison with other statements in the same file can also be useful, but they should come next.

**Review by sgouezel — COMMENTED** [review]
Looks good, thanks!

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean (hunk 3 above)
Comment (roos-j) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean]: `h_int` is not just used in that `rwa` but also once more, so I decided to keep it. Changed `rwa` to `rw ..` and `exact h_int` for readability, and also added one more `have`, removing the `simpa`.

**Comment by roos-j** [comment]
@sgouezel Many thanks for the review and suggestions!

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean [hunk 5]
```diff
@@ -81,3 +106,142 @@ theorem exists_eq_const_mul_intervalIntegral_of_nonneg
...
+  have hmeas : NullMeasurableSet {p : ℝ × ℝ | p.2 ≤ f p.1}
+      ((volume.restrict (uIoc a b)).prod (volume.restrict (uIoc 0 (f a)))) :=
+    nullMeasurableSet_le measurable_snd.aemeasurable
+      (aemeasurable_restrict_of_antitoneOn measurableSet_uIoc (hf_mon.mono hsub)).comp_fst
+  have : IsFiniteMeasure (volume.restrict (uIoc 0 (f a))) := Real.isFiniteMeasure_restrict_Ioc _ _
+  have h_int : Integrable ({p : ℝ × ℝ | p.2 ≤ f p.1}.indicator fun p ↦ g p.1)
+      ((volume.restrict (uIoc a b)).prod (volume.restrict (uIoc 0 (f a)))) :=
+    (hg.def'.comp_fst _).indicator₀ hmeas
+  -- Layer cake representation of `f x * g x`, valid for every `x` in the interval
+  have hlayer : ∀ x ∈ Ι a b, f x * g x = ∫ r in 0..f a, ({y | r ≤ f y}.indicator g) x := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean]: Could you move x and hx left of the colon, to make things more readable and drop the intro?

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean [hunk 6]
```diff
@@ -81,3 +106,142 @@ theorem exists_eq_const_mul_intervalIntegral_of_nonneg
...
+
+end First
+
+section Second
+
+/-- **Second mean value theorem for interval integrals** with a nonnegative antitone weight. -/
+theorem exists_eq_const_mul_intervalIntegral_of_nonneg_of_antitoneOn
+    (hab : a ≤ b) (hf : 0 ≤ f b)
+    (hf_mon : AntitoneOn f (Icc a b)) (hg : IntervalIntegrable g volume a b) : ∃ ξ ∈ Icc a b,
+    ∫ x in a..b, f x * g x = f a * ∫ x in a..ξ, g x := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean]: Does the conclusion of the theorem fit on a single line? It feels weird to have the `∃ ξ ∈ Icc a b` isolated at the end of its line, with a bunch of assumptions before it that make it easy to miss.
Same thing for the other statements below.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean [hunk 7]
```diff
@@ -81,3 +106,142 @@ theorem exists_eq_const_mul_intervalIntegral_of_nonneg
...
+    (hg : IntervalIntegrable g volume a b) : ∃ ξ ∈ Icc a b,
+    ‖∫ x in a..b, f x • g x‖ ≤ f b * ‖∫ x in ξ..b, g x‖ := by
+  obtain ⟨ξ, hξ_mem, hξ⟩ := exists_le_const_mul_norm_intervalIntegral_of_nonneg_of_antitoneOn
+    (f := fun x ↦ f (-x)) (g := fun x ↦ g (-x)) (by simpa) (by simpa)
+    (by intro x hx y hy hxy; apply hf_mon <;> grind)
+    <| (IntervalIntegrable.iff_comp_neg).mp hg.symm
+  rw [← intervalIntegral.integral_comp_neg] at hξ
+  exact ⟨-ξ, by grind, by simpa using hξ⟩
+
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean]:
```suggestion
```
No need to have two empty lines.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
